US09355765B2
3.4 g ZnCl2 and 100 g caprolactam having a purity not less than 60% and a moisture not more than 20% are added to a reactor, and then stirred for 30 min at the temperature of 80° C., so that ZnCl2 is fully dissolved in a molten caprolactam solvent. 2 g NaOH is rapidly added under stirring for the purpose of reaction at 100° C. for 2 h to obtain nano zinc oxide/caprolactam mixture.

reactant | ZnCl2 | 3.4 g | [Cl-].[Cl-].[Zn+2]
reactant | NaOH | 2 g | [OH-].[Na+]
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
reactant | caprolactam | 100 g | C1(CCCCCN1)=O | C6H11NO
product | zinc oxide caprolactam | [O-2].[Zn+2].C1(CCCCCN1)=O | InChI=1S/C6H11NO.O.Zn/c8-6-4-2-1-3-5-7-6;;/h1-5H2,(H,7,8);;/q;-2;+2
